US07005526B2
31.7 g (229 mmol) potassium carbonate and 9.51 g (57.3 mmol) potassium iodide were given to a solution of 15.6 g (115 mmol) 4-hydroxy-2-methyl-benzaldehyde and 55.4 g (458 mmol) allyl bromide in 500 ml 2-butanone and stirred for 16 h at 65° C. Solvents were distilled off and the residue distributed between ethyl acetate and 1 N sodium hydroxide. The organic layer was separated and the aqueous solution extracted once with ethyl acetate. The combined organic phases were dried and evaporated to give 19.8 g (98%) of 4-allyloxy-2-methyl-benzaldehyde.

reactant | potassium carbonate | 229 mmol, 31.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 57.3 mmol, 9.51 g | [I-].[K+]
reactant | 4-hydroxy-2-methyl-benzaldehyde | 115 mmol, 15.6 g | OC1=CC(=C(C=O)C=C1)C | C8H8O2
reactant | allyl bromide | 458 mmol, 55.4 g | C(C=C)Br | C3H5Br
solvent | 2-butanone | 500 ml | CC(CC)=O | C4H8O
product | 4-allyloxy-2-methyl-benzaldehyde | 19.8 g, 98% | C(C=C)OC1=CC(=C(C=O)C=C1)C | C11H12O2
